US07618990B2
(4S)-3-[4-(4-Bromophenyl)-5-fluoro-1,3-thiazol-2-yl]-4-ethyl-1,3-oxazolidin-2-one
The Selectfluor® reagent (2.2125 g, 6.25 mmol) in 250 mL of acetonitrile was added under nitrogen dropwise over 1.5 h to a solution of (4S)-3-[4-(4-bromophenyl)-1,3-thiazol-2-yl]-4-ethyl-1,3-oxazolidin-2-one (2.0015 g, 5.67 mmol), prepared in step 2 of Example 7, in 250 mL of acetonitrile at room temperature. After the addition, the reaction was stirred at room temperature for 21.5 h. The reaction was concentrated under reduced pressure to remove the acetonitrile. The residue was partitioned between methylene chloride and 2 N HCl. The organic layer was separated and the aqueous layer extracted three times with methylene chloride. The combined extracts were dried (anhydrous MgSO4), filtered and the solvent removed under reduced pressure to give 2.11 g of a tan foam. Purification of the foam on 800 g of silica gel (230-400 mesh) using 50% methylene chloride-hexane to 100% methylene chloride as the eluents gave the title compound (914.8 mg, 44%) as a white solid, mp 105-107° C.; MS (ES) m/z 370.9 [M+H]+; Anal. Calcd for C14H12BrFN2O2S: C, 45.30; H, 3.26; N, 7.55. Found: C, 45.53; H, 3.09; N, 7.37.

reactant | Selectfluor | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | (4S)-3-[4-(4-bromophenyl)-1,3-thiazol-2-yl]-4-ethyl-1,3-oxazolidin-2-one | 5.67 mmol, 2.0015 g | BrC1=CC=C(C=C1)C=1N=C(SC1)N1C(OC[C@@H]1CC)=O | C14H13BrN2O2S
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | (4S)-3-[4-(4-Bromophenyl)-5-fluoro-1,3-thiazol-2-yl]-4-ethyl-1,3-oxazolidin-2-one | 2.11 g | BrC1=CC=C(C=C1)C=1N=C(SC1F)N1C(OC[C@@H]1CC)=O | C14H12BrFN2O2S
